US07767672B2
2-(6-aminopyridin-3-ylthio)-6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine
A solution of 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine (880 mg, 2.4 mmol) and 6-aminopyridine-3-thiol) (300 mg, 2.4 mmol) in DMF (10 ml) was heated to 80° C. and stirred for 2 hrs. The reaction was diluted with ethylacetate (150 ml) and Sat. NaHCO3 (50 ml) and the organic layer washed with brine (50 ml), dried (MgSO4) and concentrated to give an oil. The residue was purified by flash column chromatography eluting with Pentane/EtOAc (5% MeOH) 0 to 100%. The resulting compound was triturated in 10:1 DCM:MeOH and filtered to give the title compound as a white solid (300 mg, 30%). 1H NMR (DMSO, 400 MHz) 0.42-0.44 (2H, m), 0.55-0.60 (2H, m), 1.35-1.45 (1H, m), 2.11 (3H, s), 3.81-3.90 (4H, m), 5.55-5.80 (2H, m), 6.35 (2H, s), 6.49-6.52 (1H, d), 7.46-7.49 (1H, d), 7.97 (1H, s), 9.30-9.35 (1H, s). ES+ 413

reactant | 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | 2.4 mmol, 880 mg | C1(CC1)C1(CN(C1)C1=CC(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C)F | C15H19FN6O2S
reactant | 6-aminopyridine-3-thiol | NC1=CC=C(C=N1)S | C5H6N2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethylacetate | 150 ml | C(C)OC(C)=O | C4H8O2
solvent | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
product | 2-(6-aminopyridin-3-ylthio)-6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine | 300 mg, 30% | NC1=CC=C(C=N1)SC1=NC(=CC(=N1)NC1=CC(=NN1)C)N1CC(C1)(F)C1CC1 | C19H21FN8S
